US04409017
A mixture of ethyl 2-bromoacetate (0.23 g), 4-[N-(1,7-dichloroisoquinolin-3-yl)-N-methylamino]phenol (0.40 g), anhydrous potassium carbonate (0.19 g) and methyl ethyl ketone was heated under reflux for 12 hrs. The mixture was cooled, diluted with dichloromethane, washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated to give an oil, which was purified by column chromatography over silica gel (eluant dichloromethane) to give ethyl 2-{4-[N-(1,7-dichloroisoquinolin-3-yl)-N-methylamino]phenoxy}acetate (0.52 g) as a yellow crystalline solid, mp 99° C.

reactant | ethyl 2-bromoacetate | 0.23 g | BrCC(=O)OCC | C4H7BrO2
reactant | 4-[N-(1,7-dichloroisoquinolin-3-yl)-N-methylamino]phenol | 0.40 g | ClC1=NC(=CC2=CC=C(C=C12)Cl)N(C)C1=CC=C(C=C1)O | C16H12Cl2N2O
reactant | potassium carbonate | 0.19 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl ethyl ketone | C(C)C(=O)C | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 2-{4-[N-(1,7-dichloroisoquinolin-3-yl)-N-methylamino]phenoxy}acetate | 0.52 g | ClC1=NC(=CC2=CC=C(C=C12)Cl)N(C)C1=CC=C(OCC(=O)OCC)C=C1 | C20H18Cl2N2O3
